US08383637B2
Cyclohexylmethyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-amine
The reaction was completed under N2. Cyclohexanecarboxaldehyde (0.01 mol) and then NaBH(OAc)3 (0.015 mol) were added to a solution of 3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenylamine (0.01 mol) in DCE (130 mL). The reaction mixture was stirred overnight at room temperature and washed with a saturated NaHCO3 solution. The organic layer was separated, dried (MgSO4) and filtered, and the solvent was evaporated to yield the title compound as a residue.

reactant | Cyclohexanecarboxaldehyde | 0.01 mol | C1(CCCCC1)C=O | C7H12O
reactant | NaBH(OAc)3 | 0.015 mol | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenylamine | 0.01 mol | COC(C=1C=C(OC=2C=C(C=CC2)N)C=CC1[N+](=O)[O-])OC | C15H16N2O5
solvent | DCE | 130 mL | ClCCCl | C2H4Cl2
product | Cyclohexylmethyl-[3-(3-dimethoxymethyl-4-nitro-phenoxy)-phenyl]-amine | C1(CCCCC1)CNC1=CC(=CC=C1)OC1=CC(=C(C=C1)[N+](=O)[O-])C(OC)OC | C22H28N2O5
